US06936612B2
4-[6-(6-Bromo-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.26 g, 0.46 mmol) prepared as in Example 2 was dissolved in 1:1 chloroform/methanol (15 ml), to which was added diethyl ether (25 ml). The solution was purged with anhydrous hydrogen chloride gas and stoppered for 18 hours. The resulting white solid was filtered, washed with diethyl ether and dried in vacuo at 60° C. to give 6-bromo-8-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride as a pale yellow solid (0.254 g). MS (APCI); M++1: Calc, 470.12. Found, 470.0. Analyses for C21H24BrN2O.1.25 H2O.2.2HCl: Calc'd: C, 44.01; H, 5.05; N, 17.11; Cl (ionic), 13.61; H2O, 3.93. Found: C, 43.74; H, 5.07; N, 16.78; Cl (ionic), 13.73; H2O, 3.81.

reactant | 4-[6-(6-Bromo-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.46 mmol, 0.26 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)Br)=O)C2CCCC2 | C26H32BrN7O3
reactant | diethyl ether | 25 ml | C(C)OCC | C4H10O
reactant | chloroform methanol | 15 ml | C(Cl)(Cl)Cl.CO
product | 6-bromo-8-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride | 0.254 g | Cl.BrC1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N(C1=O)C1CCCC1 | InChI=1S/C21H24BrN7O.ClH/c22-17-11-14-12-25-21(27-19(14)29(20(17)30)15-3-1-2-4-15)26-18-6-5-16(13-24-18)28-9-7-23-8-10-28;/h5-6,11-13,15,23H,1-4,7-10H2,(H,24,25,26,27);1H
